US08193194B2
(R)-methyl 4-(4-(2-(6-fluoro-3,4-dihydroquinolin-1(2H)-yl)propanoyl)piperazin-1-yl)phenylsulfonylcarbamate
Synthesized according to General Procedure 1. The reaction was set-up with 0.07 mmol of (R)-4-(4-(2-(6-fluoro-3,4-dihydroquinolin-1(2H)-yl)propanoyl)piperazin-1-yl)benzene sulfonamide, 0.18 mmol of triethyl amine, 0.11 mmol of methyl chloroformate and 0.75 mL of acetonitrile. LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=505.3; tR=2.28 min.

reactant | (R)-4-(4-(2-(6-fluoro-3,4-dihydroquinolin-1(2H)-yl)propanoyl)piperazin-1-yl)benzene sulfonamide | 0.07 mmol | FC=1C=C2CCCN(C2=CC1)[C@@H](C(=O)N1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)N)C | C22H27FN4O3S
reactant | triethyl amine | 0.18 mmol | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.11 mmol | ClC(=O)OC | C2H3ClO2
reactant | acetonitrile | 0.75 mL | C(C)#N | C2H3N
reactant | CH3CN | CC#N | C2H3N
solvent | H2O | O | H2O
product | (R)-methyl 4-(4-(2-(6-fluoro-3,4-dihydroquinolin-1(2H)-yl)propanoyl)piperazin-1-yl)phenylsulfonylcarbamate | FC=1C=C2CCCN(C2=CC1)[C@@H](C(=O)N1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)NC(OC)=O)C | C24H29FN4O5S
